US08466193B2
A solution of ethyl 4-amino-3-(benzylamino)benzoate (0.24 g, 0.89 mmol) and triethyl orthoformate (0.8 mL, 4.8 mmol) in ethanol (10 mL) and conc. HCl (7 drops) was heated to reflux for 24 hr. The solution was cooled to room temperature and concentrated, then diluted with ethyl acetate (100 mL) and washed with dilute aq. NaHCO3 (1×100 mL). Then organic layer was dried (MgSO4), filtered and then concentrated and the resulting residue was purified by flash chromatography (50% ethyl acetate/hexane then ethyl acetate) to provide 0.12 g (48%) of ethyl 3-benzyl-3H-benzo[d]imidazole-5-carboxylate as an off white solid.

reactant | ethyl 4-amino-3-(benzylamino)benzoate | 0.89 mmol, 0.24 g | NC1=C(C=C(C(=O)OCC)C=C1)NCC1=CC=CC=C1 | C16H18N2O2
reactant | triethyl orthoformate | 4.8 mmol, 0.8 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | HCl | 7 drops | Cl | ClH
product | ethyl 3-benzyl-3H-benzo[d]imidazole-5-carboxylate | 0.12 g, 48% | C(C1=CC=CC=C1)N1C=NC2=C1C=C(C=C2)C(=O)OCC | C17H16N2O2
